US04708955
1-Acetoxyethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate (Ib, R2 =CH3, R3 =H, R4 =AX*
To a mixture of 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-propenyl)-3-cephem-4-carboxylic acid (190 mg, 0.45 mmole) and potassium carbonate (75 mg, 0.54 mmole) in DMF (5 ml) was added at 5° C. 1-bromoethyl acetate** (90 mg, 0.54 mmole). The mixture was stirred at 5° C. for 1.5 hours and diluted with ethyl acetate (20 ml). The dilute was washed successively with water and a saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was dissolved in chloroform and chromatographed on a silica gel column (5 g) with 1% methanol in chloroform. The desired fractions were combined and concentrated. The residue was dissolved in dioxane and lyophilized to yield 103 mg (45%) of the title compound as its dioxane solvate. Mp. 105°-110° C. Estimated purity 85% (by HPLC).

reactant | 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(1-propenyl)-3-cephem-4-carboxylic acid | 0.45 mmole, 190 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC)C(=O)O)C1=O)=N/OC | C16H17N5O5S2
reactant | potassium carbonate | 0.54 mmole, 75 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromoethyl acetate | C(C)(=O)OC(C)Br | C4H7BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetoxyethyl 7-[(Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-[(Z)-1-propenyl]-3-cephem-4-carboxylate | 103 mg, 45% | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C)C(=O)OC(C)OC(C)=O)C1=O)=N/OC | C20H23N5O7S2
